US07425568B2
2-(3,5-Difluorophenyl)-6-hydroxychroman-4-one was prepared as described for 2-(3-fluorophenyl)-6-hydroxychroman-4-one in Example 9(a) starting from 1.0 g of 2′,5′-dihydroxyacetophenone and 1.12 g of 3,5-difluorobenzaldehyde. The product was recrystallised from acetic acid. 1H NMR (400 MHz, d6-DMSO) δ: 9.47 (s, 1H), 7.30-7.23 (m, 3H), 7.12 (d, 1H, J 2.9 Hz), 7.06 (dd, 1H, J 8.8, 2.9 Hz), 7.00 (d, 1H, J 8.8 Hz), 5.60 (dd, 1H, J 13.1, 2.8 Hz), 3.15 (dd, 1H, J −16.8, 13.1 Hz), 2.85 (dd, 1H, J −16.8, 2.8 Hz).

reactant | 2-(3-fluorophenyl)-6-hydroxychroman-4-one | FC=1C=C(C=CC1)C1OC2=CC=C(C=C2C(C1)=O)O | C15H11FO3
reactant | 2′,5′-dihydroxyacetophenone | 1.0 g | OC1=C(C=C(C=C1)O)C(C)=O | C8H8O3
reactant | 3,5-difluorobenzaldehyde | 1.12 g | FC=1C=C(C=O)C=C(C1)F | C7H4F2O
product | 2-(3,5-Difluorophenyl)-6-hydroxychroman-4-one | FC=1C=C(C=C(C1)F)C1OC2=CC=C(C=C2C(C1)=O)O | C15H10F2O3
